US08293763B2
Step 3: 8-(4-Bromo-2-chloro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid (2-hydroxy-ethoxy)-amide
8-(4-Bromo-2-chloro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid (2-vinyloxy-ethoxy)-amide (196 mg, 0.43 mmol) was dissolved in methanol and loaded onto an Isolute® SCX-2 cartridge (10 g). The cartridge was then washed with methanol and the desired product was subsequently eluted using 2M NH3 in MeOH. Appropriate fractions were combined and concentrated to give a residue that was subjected to flash chromatography (Si-PPC, gradient 0% to 10%, methanol in dichloromethane). The appropriate fractions were combined and concentrated to give a residue that was subjected to HPLC (Preparative C18 column, 0.1% formic acid, acetonitrile in water, gradient 5% to 98%, ramp time 20 minutes) to afford the title compound as a pale yellow solid (43 mg, 23%). LCMS (method A): RT=6.71 min, [M+H]+=425/427. 1H NMR (DMSO-d6): 11.68 (1H, s), 10.46 (1H, s), 8.35 (1H, d, J=0.79 Hz), 7.95 (1H, d, J=7.36 Hz), 7.78 (1H, d, J=2.27 Hz), 7.42 (1H, dd, J=8.62, 2.29 Hz), 7.01 (1H, d, J=8.63 Hz), 6.79 (1H, d, J=7.35 Hz), 6.56 (1H, s), 4.69 (1H, s), 3.87 (2H, t, J=4.89 Hz), 3.57 (2H, m).

reactant | 8-(4-Bromo-2-chloro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid (2-vinyloxy-ethoxy)-amide | 0.43 mmol, 196 mg | C(=C)OCCONC(=O)C1=C(C=2N(C=C1)C=NC2)NC2=C(C=C(C=C2)Br)Cl | C18H16BrClN4O3
reactant | formic acid | C(=O)O | CH2O2
reactant | acetonitrile | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 8-(4-Bromo-2-chloro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid (2-hydroxy-ethoxy)-amide | 43 mg, 23% | OCCONC(=O)C1=C(C=2N(C=C1)C=NC2)NC2=C(C=C(C=C2)Br)Cl | C16H14BrClN4O3
